US06825180B2
A mixture of (R)-3-(5-acetoxyhexyl)-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione (1.84 g, 5.27 mmol), acetonitrile (20 ml), benzyl bromide (0.95 ml, 7.91 mmol) and potassium carbonate (2.19 g, 15.8 mmol) was stirred at 50° C. for 2 hours. After cooling to room temperature, the mixture was concentrated under reduced pressure. The residue was treated with water (50 ml) and extracted with ethyl acetate (50 ml). The organic extract was concentrated under reduced pressure to afford crude (R)-3-(5-acetoxyhexyl)-8-benzyl-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione.

reactant | (R)-3-(5-acetoxyhexyl)-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | 5.27 mmol, 1.84 g | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(C=C(N2)C)=O)C)=O)C | C17H23N3O5
reactant | benzyl bromide | 7.91 mmol, 0.95 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 15.8 mmol, 2.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (R)-3-(5-acetoxyhexyl)-8-benzyl-1,7-dimethylpyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(C=C(N2CC2=CC=CC=C2)C)=O)C)=O)C | C24H29N3O5
